US07439368B2
3-Cyano-4-hydroxybenzoic acid (4-morpholinyl)amide (232 mg, 1.0 mmol), sodium iodide (150 mg, 1.0 mmol), potassium carbonate (415 mg, 3.0 mmol) and chloroacetic acid (189 mg, 2.0 mmol) are suspended in acetone (12 mL) and refluxed for 5 hours. The reaction solution is evaporated to remove the solvent under reduced pressure, partitioned by adding water and ethyl acetate, and adjusted to pH=2-3 with hydrochloric acid. The aqueous layer is separated and re-extracted with ethyl acetate (×2). The solutions are combined and washed with saturated brine. The organic layer is dried over magnesium sulfate, and evaporated to remove the solvent under reduced pressure. The precipitated crude crystals are suspended in methanol-diethyl ether, and filtered to give 3-cyano-4-carboxymethoxybenzoic acid (4-morpholinyl)amide (241 mg, 83%). Mp: 205-206° C.

reactant | 3-Cyano-4-hydroxybenzoic acid (4-morpholinyl)amide | 1.0 mmol, 232 mg | N1(CCOCC1)NC(C1=CC(=C(C=C1)O)C#N)=O | C12H13N3O3
reactant | sodium iodide | 1.0 mmol, 150 mg | [I-].[Na+]
reactant | potassium carbonate | 3.0 mmol, 415 mg | C([O-])([O-])=O.[K+].[K+]
reactant | chloroacetic acid | 2.0 mmol, 189 mg | ClCC(=O)O | C2H3ClO2
solvent | acetone | 12 mL | CC(=O)C | C3H6O
product | 3-cyano-4-carboxymethoxybenzoic acid (4-morpholinyl)amide | 241 mg, 83% | N1(CCOCC1)NC(C1=CC(=C(C=C1)OCC(=O)O)C#N)=O | C14H15N3O5
